US08404679B2
N-[(3RS,4SR)-4-(4-Chloro-phenyl)-1-(1-ethyl-piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
In analogy to the procedure described for the synthesis of example 104, the title compound N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(1-ethyl-piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide was prepared from N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using acetaldehyde instead of acetone and was obtained as a light brown oil. MS m/e: 552.2 [M]+.

reactant | N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C1CCNCC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C26H29ClF3N3O3
reactant | acetaldehyde | C(C)=O | C2H4O
product | N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(1-ethyl-piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C1CCN(CC1)CC)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C28H33ClF3N3O3
